US04322370
A solution of 4-(4-chlorophenyl)-7-methoxy-2,2-dimethyl-1-tetralone (16.1 g) in acetic acid (75 ml) and hydrobromic acid (48%, 75 ml) was heated under reflux for 16 hr. The solution was concentrated in vacuo, water was added and the mixture extracted with ethyl acetate. The extracts were washed well with water and sodium bicarbonate solution, dried (MgSO4) and the solvent removed to give 4-(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone as a white solid which was used without purification (14.7 g, 91%).

reactant | 4-(4-chlorophenyl)-7-methoxy-2,2-dimethyl-1-tetralone | 16.1 g | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)OC)=O)(C)C | C19H19ClO2
solvent | acetic acid | 75 ml | C(C)(=O)O | C2H4O2
solvent | hydrobromic acid | 75 ml | Br | BrH
product | 4-(4-chlorophenyl)-7-hydroxy-2,2-dimethyl-1-tetralone | ClC1=CC=C(C=C1)C1CC(C(C2=CC(=CC=C12)O)=O)(C)C | C18H17ClO2
